US05332726
4 g of 6-amino-1-hexanol is dissolved in 50 ml of 10% aqueous tetrahydrofuran and the solution cooled to 0° C. 7.46 g of di-tert-butyldicarbonate in 25 ml of tetrahydrofuran is added dropwise and the resulting mixture stirred for 3 days at room temperature. The solvent is evaporated in vacuo and the residue dissolved in ethyl acetate. The ethyl acetate solution is washed with water, dried over magnesium sulfate and evaporated in vacuo to give 7.4 g of N-tert-butoxycarbonyl-6-amino-1-hexanol.

reactant | 6-amino-1-hexanol | 4 g | NCCCCCCO | C6H15NO
reactant | di-tert-butyldicarbonate | 7.46 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-6-amino-1-hexanol | 7.4 g | C(C)(C)(C)OC(=O)NCCCCCCO | C11H23NO3
